US05538976
To 10 ml of dimethyl sulfoxide was added 1.40 g (12.5 mmol) of potassium tert-butoxide, and to the solution was added 951 mg (10.0 mmol) of 5-aminopyrimidine while cooling with water. After stirring at room temperature for 1 hour, 0.54 ml (5.0 mmol) of 2-fluorobenzonitrile was added thereto while cooling with water, and the mixture was stirred at room temperature for 30 minutes. The reaction mixture was poured into ice-water, and the mixture was adjusted to pH 7.0 with 1 N hydrochloric acid, and filtered. The filter residue was dissolved in 200 ml of acetone, and the acetone solution was filtered. The filtrate was dried over magnesium sulfate, and the solvent was removed by distillation under reduced pressure to obtain 0.53 g (2.70 mmol) of 5-[N-(2cyanophenyl)amino]pyrimidine.

reactant | potassium tert-butoxide | 12.5 mmol, 1.40 g | CC(C)([O-])C.[K+]
reactant | 5-aminopyrimidine | 10.0 mmol, 951 mg | NC=1C=NC=NC1 | C4H5N3
reactant | 2-fluorobenzonitrile | 5.0 mmol, 0.54 ml | FC1=C(C#N)C=CC=C1 | C7H4FN
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | water | O | H2O
solvent | dimethyl sulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 5-[N-(2cyanophenyl)amino]pyrimidine | 2.70 mmol, 0.53 g | C(#N)C1=C(C=CC=C1)NC=1C=NC=NC1 | C11H8N4
